US05306728
Production of (E,E)-N'-ethyl-N'-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-N-[3-[3-(3-thienyl)phenyl]-2-propenyl]ethylenediamine
Compounds of Examples 81 and 82 were obtained by performing the same reaction as in Example 80 except that (E)-N'-ethyl-N'-(6,6-dimethyl-2-hepten-4-ynyl)-N-[2-[3-(3-thienyl)phenoxy]ethyl]ethylenediamine or acetaldehyde was used instead of the starting compound, (E, E)-N'-ethyl-N'-(6,6-dimethyl-2-hepten-4-ynyl)-N-[3-[3-(3-thienyl)phenyl]-2-propenyl]ethylenedi-amine or formalin, which was used in the above-mentioned reaction.

reactant | (E)-N'-ethyl-N'-(6,6-dimethyl-2-hepten-4-ynyl)-N-[2-[3-(3-thienyl)phenoxy]ethyl]ethylenediamine | C(C)N(CCNCCOC1=CC(=CC=C1)C1=CSC=C1)C\C=C\C#CC(C)(C)C | C25H34N2OS
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | (E, E)-N'-ethyl-N'-(6,6-dimethyl-2-hepten-4-ynyl)-N-[3-[3-(3-thienyl)phenyl]-2-propenyl]ethylenedi-amine | C(C)N(CCNC\C=C\C1=CC(=CC=C1)C1=CSC=C1)C\C=C\C#CC(C)(C)C | C26H34N2S
reactant | formalin | C=O | CH2O
product | (E,E)-N'-ethyl-N'-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-N-[3-[3-(3-thienyl)phenyl]-2-propenyl]ethylenediamine | C(C)N(CCN(C\C=C\C1=CC(=CC=C1)C1=CSC=C1)C)C\C=C\C#CC(C)(C)C | C27H36N2S
